US05041458
Preparation of N-(Diphenylmethylene)-5-iodo-1H-1,2,4-triazol-1-amine
A solution of 1.3 g (12.8 mmol) of diisopropyl amine in 30 mL is cooled to -78° C. n-Butyllithium (4.3 mL of a 1.6M solution in hexanes, 6.9 mmol) is added dropwise. Over 1/2 h, the solution is warmed to 0° C. and recooled to -78° C. A solution of 2.0 g (6.3 mmol) of N-(1H-1,2,4-triazol-1-yl)-benzophenone imine in 5 mL of tetrahydrofuran is added. The solution is stirred 10 min before 1.7 g (6.7 mmol) of iodine are added. The reaction mixture is warmed to room temperature, diluted with ethyl acetate and washed with saturated aqueous NaHSO3, water and brine. Drying (MgSO4) and removal of solvent gives the desired product.

reactant | diisopropyl amine | 12.8 mmol, 1.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | C(CCC)[Li]
reactant | N-(1H-1,2,4-triazol-1-yl)-benzophenone imine | 6.3 mmol, 2.0 g | N1(N=CN=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C15H12N4
reactant | iodine | 6.7 mmol, 1.7 g | II | I2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(Diphenylmethylene)-5-iodo-1H-1,2,4-triazol-1-amine | C1(=CC=CC=C1)C(=NN1N=CN=C1I)C1=CC=CC=C1 | C15H11IN4
